US07335654B2
A mixture of 6-ethyl-9-(4-benzyloxyphenyl)-2-trifluoromethylpurine (0.1 mmol), palladium on active carbon (0.001 mol, methanol (50 mL) and acetic acid (3 mL) was shaken under 30 psi hydrogen. After 5 hours, the reaction mixture was filtered through celite and the filtrate was concentrated under vacuum. The resulting residue was dissolved in 30 mL of ethyl acetate and washed with 5% aqueous sodium bicarbonate (1×30 mL). Concentration and Chromatography (5% methanol in dichloromethane) gave 6-ethyl-9-(4-hydroxyphenyl)-2-trifluoromethylpurine (21 mg, 93%). 1H NMR (300 MHz, CDCl3) δ 8.37 (s, 1H), 7.45 (d, J=7.2 Hz, 2H), 6.96 (d, J=7.2 Hz, 2H), 3.29 (q, J=7.5 Hz, 2 H), 3.11 (s, 1H), 1.41 (t, J=7.5 Hz, 3H). [ESMS m/z (309.4 (M+H)+)]

reactant | 6-ethyl-9-(4-benzyloxyphenyl)-2-trifluoromethylpurine | 0.1 mmol | C(C)C1=C2N=CN(C2=NC(=N1)C(F)(F)F)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C21H17F3N4O
reactant | methanol | 50 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium | [Pd] | Pd
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | 6-ethyl-9-(4-hydroxyphenyl)-2-trifluoromethylpurine | 21 mg, 93% | C(C)C1=C2N=CN(C2=NC(=N1)C(F)(F)F)C1=CC=C(C=C1)O | C14H11F3N4O
